*RING OSC
VDD1 vdd 0 1.0
VDD2 vss 0 0
* SETTING INITIAL CONDITION FOR QUICKER START OF OSC.:
.ic V(n1) = 0.01

.include c:\AIMSpice2022\gpdk090_subcircuits_1V\inv_4_1V.cir


* inv_4_lV nodes, and order: in out vdd vss
x1 n3 n1 vdd vss inv_4_1V
x2 n1 n2 vdd vss inv_4_1V
x3 n2 n3 vdd vss inv_4_1V

.plot V(n1) V(n2) V(n3) ! 1.05


* To simulate different corners, choose among "tt","ss","ff","sf" or "fs" 
* for the 2 signs before .cir, below:
.include c:\AIMSpice2022\gpdk090\gpdk90nm_tt.cir

